US04234595
Procedure 71B. 5-BROMOGRAMINE
This material was prepared by the method of Procedure 67B from 49.5 g. of 5-bromoindole, 20 ml. of 37% aqueous formaldehyde, 55 ml. of 25% aqueous dimethylamine, 250 ml. of acetic acid and 250 ml. of dioxane; yield 60.6 g., m.p. 154°-156° C. The structure was confirmed by examination of the NMR spectrum.

reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine | CNC | C2H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-BROMOGRAMINE | CN(C)CC1=CNC2=C1C=C(C=C2)Br | C11H13BrN2
